US05039759
N-Propyl-N'-Butyl Urea Preparation
205.76 Grams (3.48 moles) of n-propylamine were charged to a 1--1., round bottom flask equipped with stirrer, thermometer, reflux condenser and addition funnel. 313.7 Grams (3.16 moles) of butyl isocyanate were charged to the addition funnel and added to the flask with stirring at a rate which maintained the contents at about 60°-65° C. Toluene was added to dissolve the solid product for transfer to a stripping vessel. The crude product solution was about 92 area % ureas on a solvent-free basis by gas chromatography. The crude product solution was freed of most of the solvent and lights under vacuum with a rotary evaporator leaving 480.6 g of pale yellow solid melting from 68°-70° C. Infrared analysis showed a clean spectrum in agreement with the proposed structure's functionality. The gas chromatograph showed three, major peaks in a 1:2:1 ratio indicating possible `scrambling` of alkyl groups and a statistically determined ratio of products.

reactant | n-propylamine | 3.48 moles | C(CC)N | C3H9N
reactant | butyl isocyanate | 3.16 moles | C(CCC)N=C=O | C5H9NO
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | N-Propyl-N'-Butyl Urea | 480.6 g | C(CC)NC(=O)NCCCC | C8H18N2O
